US07160888B2
A fourth intermediate compound, 1-(6-Fluoro-naphthalen-1-yl)-piperazine, was produced as follows: Trifluoro-methanesulfonic acid 6-fluoro-naphthalen-1-yl ester (1.24 g, 4.23 mmol) and 1-Boc-piperazine (946 mg, 5.08 mmol) were dissolved in toluene (15 mL) and the mixture was degassed for 30 minutes. To this was added 2-(dicyclohexylphosphino)-biphenyl (148 mg, 0.42 mmol), palladium acetate (95 mg, 0.42 mmol), and sodium tert-butoxide (569 mg, 5.92 mmol). The mixture was stirred at 80° C. for 30 minutes, then cooled to room temperature, washed with water (20 mL) and brine (20 mL), dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The crude oil was filtered through a short plug of silica gel, eluting with 3:1 hexanes/ethyl acetate to yield crude 4-(6-fluoro-naphthalen-1-yl)-piperazine-1-carboxylic acid tert-butyl ester as a brown oil. The crude oil was dissolved in a mixture of dichloromethane (5 mL) and trifluoroacetic acid (5 mL) and stirred at room temperature for 4 hours. The mixture was evaporated in vacuo and diethyl ether (30 mL) was added. The grey precipitate was filtered off and rinsed with diethyl ether (20 mL) to yield the fourth intermediate compound as the TFA salt (755 mg, 52%) as a grey solid. 1H NMR (400 MHz, dmso-d6) δ 8.80 (s, 1H), 8.24–8.18 (m, 1H), 7.72 (d, 1H), 7.68 (d, 1H), 7.50 (t, 1H), 7.40 (t, 1H), 7.18 (d, 1H), 3.40–3.10 (m, 8H).

reactant | Trifluoro-methanesulfonic acid 6-fluoro-naphthalen-1-yl ester | 4.23 mmol, 1.24 g | FC=1C=C2C=CC=C(C2=CC1)OS(=O)(=O)C(F)(F)F | C11H6F4O3S
reactant | 1-Boc-piperazine | 5.08 mmol, 946 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 2-(dicyclohexylphosphino)-biphenyl | 0.42 mmol, 148 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | sodium tert-butoxide | 5.92 mmol, 569 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.42 mmol, 95 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(6-fluoro-naphthalen-1-yl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=CC2=CC(=CC=C12)F | C19H23FN2O2
